US08252792B2
A mixture of 1-(2-pyrimidyl)piperazine dihydrochloride (0.218 g), 2-chloro-4-morpholin-4-yl-thieno[3,2-d]pyrimidine-6-carbaldehyde (0.20 g) and triethylamine (0.28 ml) in 1,2-dichloroethane (3 ml) was stirred for 1 hour. Acetic acid (0.040 ml) and sodium triacetoxyborohydride (0.195 g) were then added. After stirring for 24 hours the reaction mixture was diluted with dichloromethane, washed with sodium bicarbonate solution, dried (MgSO4) and the solvent removed in vacuo. The residue was purified by flash chromatography to 2-chloro-4-morpholin-4-yl-6-(4-pyrimidin-2-yl-piperazin-1-ylmethyl)-thieno[3,2-d]pyrimidine (0.115 g). 2-(1H-Indol-4-yl)-4-morpholin-4-yl-6-(4-pyrimidin-2-yl-piperazin-1-ylmethyl)-thieno[3,2-d]pyrimidine was prepared using the standard Suzuki coupling.

reactant | 1-(2-pyrimidyl)piperazine dihydrochloride | 0.218 g | Cl.Cl.N1=C(N=CC=C1)N1CCNCC1
reactant | 2-chloro-4-morpholin-4-yl-thieno[3,2-d]pyrimidine-6-carbaldehyde | 0.20 g | ClC=1N=C(C2=C(N1)C=C(S2)C=O)N2CCOCC2 | C11H10ClN3O2S
reactant | triethylamine | 0.28 ml | C(C)N(CC)CC | C6H15N
reactant | sodium triacetoxyborohydride | 0.195 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | 1,2-dichloroethane | 3 ml | ClCCCl | C2H4Cl2
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | Acetic acid | 0.040 ml | C(C)(=O)O | C2H4O2
product | 2-(1H-Indol-4-yl)-4-morpholin-4-yl-6-(4-pyrimidin-2-yl-piperazin-1-ylmethyl)-thieno[3,2-d]pyrimidine | N1C=CC2=C(C=CC=C12)C=1N=C(C2=C(N1)C=C(S2)CN2CCN(CC2)C2=NC=CC=N2)N2CCOCC2 | C27H28N8OS
